US07199147B2
To a solution of 2-{cis-4-[(4-methyl-1H-indazol-5-yl)oxy]cyclohexyl}-1H-isoindole-1,3(2H)-dione (100 mg, 0.266 mmol) in tetrahydrofuran (2.7 ml) were added 3,4-dihydro-2H-pyran (36 μl, 0.399 mmol) and p-toluenesulfonic acid monohydrate (15 mg, 0.069 mmol), and the resulting mixture was stirred for 4 hours while being maintained at 70° C. The reaction solution was allowed to cool, and then was concentrated under reduced pressure to obtain a crude product. The crude product was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate) to obtain 2-{cis-4-[(4-methyl-1-tetrahydro-2H-pyran-2-yl-1H-indazol-5-yl)oxy]cyclohexyl}-1H-isoindole-1,3(2H)-dione (99.6 mg, 82%).

reactant | 2-{cis-4-[(4-methyl-1H-indazol-5-yl)oxy]cyclohexyl}-1H-isoindole-1,3(2H)-dione | 0.266 mmol, 100 mg | CC1=C2C=NNC2=CC=C1O[C@H]1CC[C@H](CC1)N1C(C2=CC=CC=C2C1=O)=O | C22H21N3O3
reactant | 3,4-dihydro-2H-pyran | 0.399 mmol, 36 μl | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid monohydrate | 0.069 mmol, 15 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | tetrahydrofuran | 2.7 ml | O1CCCC1 | C4H8O
product | 2-{cis-4-[(4-methyl-1-tetrahydro-2H-pyran-2-yl-1H-indazol-5-yl)oxy]cyclohexyl}-1H-isoindole-1,3(2H)-dione | 99.6 mg, 82% | CC1=C2C=NN(C2=CC=C1O[C@H]1CC[C@H](CC1)N1C(C2=CC=CC=C2C1=O)=O)C1OCCCC1 | C27H29N3O4
